Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo M with severe COPD on 4 L home O2 (FEV1 19%, FEV1/FVC 43% 
in ___, chronic systolic CHF (EF >55% on ___, and h/o PE in 
___ on coumadin who presents with worsening shortness of 
breath and hypoxia. The patient has had multiple hospital 
admissions for COPD exacerbation and pulmonary infections. He 
was most recently at ___ from ___ - 
___, and at ___ after discharge. He was just 
discharged from rehab yesterday.  He states he was acutely more 
DOE this morning while walking to the bathroom. While he had 
mild DOE at rehab, he states this was worse than usal. No direct 
sick contacts. He snores at night, and states he has been sleepy 
during the daytime.  He has never been evaluated for sleep apnea 
in the past. His ___ came to evaluate him at home and noted that 
he was more dyspneic with worsening hypoxia (oxygen sats at 
82%-79% that did not improve despite some chest ___ and getting 
patient out of bed.) His oxygen saturations are usually in the 
mid ___ on 4 L NC. His PCP was called, who advised him to go to 
the ED for further evaluation. 
   
In the ED, initial vs were: 99.2 103 152/75 20 ___  Patient was 
given albuterol and ipratroprium nebs x3, methylprednisolone 125 
mg IV x1, azithromycin 500 mg PO x1. CXR showed small LLL 
infiltrate, so was given IV Vancomycin 1 gram x1 and Zosyn IV 
x1. He was noted when transferring rooms off of oxygen to have 
sats in the low 60%. He did not require BiPap in the ED. On 
transfer, VS were afebrile, 96 125/57 24 85% on 5 L NCVS - 85% 
on 5 L NC, HR 96 24 afebrile 125/57.  
   
On the floor, patient is sitting in bed on nasal canula, 
watching TV. He denies any recent fevers or chills. He denies 
any palpitations, syncope, orthopnea or PND. He states his lower 
extremity swelling is worse, and that he may have had some 
weight gain since discharge from rehab. He admits to chronic 
greenish sputum that has not changed in amount, consistency. 
Denies hemetemesis. Denies chest pain, abdominal pain, diarrhea 
or constipation, dysuria. He has chronic psoriasis and sebbhoric 
dermatitis. He has some mild venous stasis changes in his ___ 
which he states is chronic after an infection in his leg in 
___ and has not spread, but he states that recently it has 
been slightly more red and painful. He vehemently denies that 
'there is anything wrong with my heart'. He is chronically 
hoarse from previous intubation attempts.

 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. Tobacco Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. ___ cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___
 
Physical Exam:
Vitals: 98.6 93 130/52 25 90% on 5 L NC  
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear, slightly 
elevated JVP
Neck: supple, no LAD
Lungs: increased expiratory time noted, diffuse wheezes noted in 
bilateral lower lobes
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Skin: scaly, flaky skin noted over T-zone area of face.
Ext: 1+ pitting edema ___, patch of erythema/chronic venous 
stasis changes on LLL
 
Pertinent Results:
ADMISSION LABS:
___ 12:59PM WBC-12.7* RBC-3.12* Hgb-8.8* Hct-28.6* MCV-92 
Plt ___
___ 12:59PM Neuts-93.9* Lymphs-3.8* Monos-1.8* Eos-0.3 
Baso-0.2
___ 12:59PM ___ PTT-26.9 ___
___ 09:06PM Gluc-433 UreaN-30* Creat-1.0 Na-139 K-5.5* 
Cl-97 HCO3-35* 
___ 09:06PM proBNP-389*
___ 09:06PM Calcium-7.5* Phos-2.5* Mg-2.2
___ 02:01PM Type-ART pO2-66* pCO2-68* pH-7.34* calTCO2-38* 
Base XS-7
___ 01:05PM Glucose-378* Lactate-1.6 Na-141 K-4.7 Cl-93* 
calHCO3-37*
   
URINE:
___ 02:00PM Color-Yellow Appear-Clear Sp ___
___ 02:00PM Blood-NEG Nitrite-NEG Protein-75 Glucose-1000 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 02:00PM ___ Bacteri-RARE Yeast-NONE Epi-<1
___ 02:00PM ___
   
MICRO:
___ BCx: ***
___ ___ Legionella Ag: ***
   
STUDIES:
___ CXR:
****
   
DISCHARGE LABS:
****
 
Brief Hospital Course:
___ yo M with COPD on 4 L home O2, CHF, PE on coumadin who 
presents with worsening shortness of breath.
   
# Shortness of breath: Likely multifactorial from recurrent COPD 
exacerbation, volume overload from worsening CHF, possibly 
worsening pulmonary hypertension. Patient with severe COPD, but 
current oxygen saturations are not far from his baseline of mid 
___ on 4 L NC. ABG consistent with a possible acute on chronic 
respiratory acidosis with some metabolic compensation. Patient 
with increased weight gain and worsening ___ while at rehab. CXR 
with ?LLL infiltrate, but patient has had multiple PNAs in the 
past, without fever or increased sputum production, so CXR 
finding could be resolving previous PNA. Suspicion for ACS/MI 
low given no evidence of EKG changes and no chest pain. Patient 
may also have worsening pulmonary hypertension from his severe 
COPD contributing to his DOE. Pulmonary embolism was thought to 
be unlikely given chronic therapeutic anticoagulation with 
coumadin. The patient did complain of increased ___ pain and 
swellling, likely from pre-existing venous insufficiency and 
___ was negative.  

Overnight, the patient was maintained on face tent oxygen, and 
clinically improved.  Saturations trended in the low 90's with 
transient dips into the high ___ and ___, primarily with 
exhertion, talking and eating.  In the morning the patient 
received a second dose of azithromycin and prednisone was weaned 
down to 60 mg po.  He felt back to baseline from a respiratory 
status at the time of transfer.   
.
# COPD: Severe (FEV1/FVC 43%) on 4 L home O2. Home oxygen sats 
are in mid 80% range. Followed by Dr. ___. Continued inhalers 
and spirava as above and prednisone with plan to rapidly tape to 
baseline of 20 mg daily.
.
# CHF: EF > 55% in ___. Patient reports worsening SOB, ___, and 
with weight gain (dry weight appears to be ~210, currently 220 
lbs on admission).  The patient was diuresed overnight with net 
negative about 1L.  TTE was obtained which showed EF >55% and 
moderate pulm arterial hypertension.  Of note the echo did show 
a prominent anterior fat pad versus a loculated pericardial 
effusion anteriorly.  This does not correlate clinically and on 
lateral CXR there was a very prominent retrosternal space that 
this finding may represent.  This may be followed up as an 
outpatient.  
.   
# ___ erythema: Pt with cellulitis in this leg in ___ and with 
chronic venous stasis changes. Reports slightly increased 
erythema without spread and some pain in this leg. DDx includes 
worsening cellulitis vs. DVT (although latter unlikely given INR 
is therapeutic). As mentioned, ___ was negative.  Erythema 
did not progress overnight, the patient remained afebrile, and 
the leg was not particularly warm.  We chose to not continue 
treating for cellulitis.  Likely changes of chronic venous 
stasis.
.
# PE: Diagnosed in ___, on coumadin. continued coumadin 5 mg 
PO daily
.  
# HTN: Continued home anti-hypertensives (amlodipine, lasix)
. 
# HLD: Continued statin
.   
# DM: Held glyburide.  Started on RISS. Transiently required 
insulin gtt overnight, FSGs improved to 100s.  Spiked to 499 
after eating late breakfast, covered with 12U humalog.  Likely 
poor control due to high dose steroid requirement.
.   
# Psoriasis: topical steroids.
 
Medications on Admission:
Coumadin 5mg PO daily
Vitamin B12 1000mcg SC qmonth (on the ___
Fosamax 70mg PO ___
Lasix 80mg PO daily
Prilosec 40mg PO daily
Norvasc 10mg PO daily
ASA 325mg PO daily
Caltrate 600mg with VitD 1tab PO daily
Flonase 0.05% 2sprays each nare daily
Spiriva 18mcg 1cap inh daily
Advair 500/50 1puff BID
Mucinex ER 1200mg PO BID
Colace 100mg PO BID
Enulose 10g PO BID
Ferrous Sulfate 325mg PO BID
Alphagam 0.2% 1gtt both eyes TID
Senna 2tabs PO qhs
Zocor 5mg PO qhs
Zantac 300mg PO qhs
Xalatan 0.005% 1gtt both eyes qhs
Mylanta 30mg PO q4h prn GI upset
Prednisone 20mg PO daily
Glyburide 10mg PO daily
Humalog 4units SC with lunch
Flomax 0.4mg PO qhs
Albuterol nebs BID and q1h prn SOB
HISS TID (no bedtime dose): 
200-250 2units
251-300 4units
301-350 6units
351-400 8units
401-450 10units
 
Discharge Medications:
1. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) for 7 days.  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q4H (every 4 hours) for 
7 days.  
3. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
4. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
Q2H (every 2 hours) as needed for nasal dryness/congestion.  
5. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
7. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
8. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QSUN (every 
___.  
9. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

10. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
12. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily). Tablet(s) 
13. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
15. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
16. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic Q8H 
(every 8 hours).  
17. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for GI upset.  
18. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
19. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
20. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
21. Guaifenesin 100 mg/5 mL Syrup Sig: Ten (10) ML PO BID (2 
times a day).  
22. Prednisone 20 mg Tablet Sig: 2.5 Tablets PO once a day for 3 
days: Please take 2.5 tabs tomorrow (50 mg), then 2 tabs on day 
2 (40 mg), then 1.5 tabs on day 3 (30 mg) then return to your 
usual standing 20 mg daily.
Disp:*7 Tablet(s)* Refills:*0*
23. Lasix 80 mg Tablet Sig: One (1) Tablet PO once a day.  
24. Glyburide 5 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
COPD exacerbation.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted to the hospital overnight for an exacerbation 
of your COPD.  You improved with close monitoring and extra 
oxygen.  

Your medications have changed in the following ways:
1. Add azithromycin 250 mg daily for 3 more days.
2. Add prednisone 40 mg po tomorrow, then 30 mg po the following 
day, then back to your usual 20 mg po daily.

Please go to all of your outpatient appointments.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Please seek urgent medical advice or obtain transport to the ED 
if you experience any of the following:
- Worsening shortness of breath, chest pain, intractable cough, 
fever or chills, fainting, any other new or concerning symptoms.
 
Followup Instructions:
___